US07608639B2
3-{4-[3-(4-Ethyl-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with 4-ethyl-2-phenoxy-phenol as in Example 18 to afford 0.200 g (35%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C30H28O5 468, found 469 (M+1, 100%).

reactant | 3-[4-(3-bromo-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)Br)C)=O | C17H17BrO3
reactant | 4-ethyl-2-phenoxy-phenol | C(C)C1=CC(=C(C=C1)O)OC1=CC=CC=C1 | C14H14O2
product | 3-{4-[3-(4-Ethyl-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | C(C)C1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=CC2)C=C1)OC1=CC=CC=C1 | C30H28O5
